US05158948
Step 1: 1-Cyano-1-trimethylsilyloxy-1,2,3,4-tetrahydronaphthalene
To a solution of 1,2,3,4-tetrahydronaphthalene-1-one (20 g, 140 mmol) in THF (150 mL) was added 6 mL of a 0.5M solution of lithium cyanide (3 mmol, 0.02 equivalent). The reaction mixture was stirred for ~2 minutes and then trimethylsilyl cyanide (25 g, 250 mmol, 1.8 equivalent) was added in one portion. The reaction mixture was stirred for 4.5 hours. Solvents and excess trimethylsilyl cyanide were removed under reduced pressure to give the title compound as a yellow oil. The oil was used in the next step without purification.

reactant | 1,2,3,4-tetrahydronaphthalene-1-one | 140 mmol, 20 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | lithium cyanide | 3 mmol, 0.02 equivalent | [C-]#N.[Li+]
reactant | trimethylsilyl cyanide | 250 mmol, 25 g, 1.8 equivalent | C[Si](C)(C)C#N | C4H9NSi
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-Cyano-1-trimethylsilyloxy-1,2,3,4-tetrahydronaphthalene | C(#N)C1(CCCC2=CC=CC=C12)O[Si](C)(C)C | C14H19NOSi
